US08138187B2
5-Fluoro-3-(2-(piperidin-1-yl)ethyl)-1H-indole (Ind-20)
Piperidine (3.52 g, 4.08 ml, 41.3 mmol) was dissolved in abs dioxane (100 ml), 3-(2-bromo-ethyl)-5-fluoro-1H-indole (5.00 g, 20.7 mmol) was added at RT and the mixture was stirred at 70° C. for 16 h. The solution was concentrated, the residue was taken up in CHCl3 (150 ml) and the mixture was washed with water (2×50 ml). The organic phase was dried over Na2SO4, filtered and concentrated i. vac. The residue obtained was purified by flash chromatography with 200 g of silica gel and ethyl acetate/ethanol (9:1→1:2).

reactant | Piperidine | 41.3 mmol, 4.08 ml, 3.52 g | N1CCCCC1 | C5H11N
reactant | 3-(2-bromo-ethyl)-5-fluoro-1H-indole | 20.7 mmol, 5.00 g | BrCCC1=CNC2=CC=C(C=C12)F | C10H9BrFN
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-Fluoro-3-(2-(piperidin-1-yl)ethyl)-1H-indole | FC=1C=C2C(=CNC2=CC1)CCN1CCCCC1 | C15H19FN2
